US08404896B2
To a solution of (3-fluoro-5-(trifluoromethyl)phenyl)(5-fluoropyridin-2-yl)methanone (2.43 g, 8.5 mmol), prepared as described in Procedure 2, in DME (60 mL), was added TosMIC (2.23 g, 11.4 mmol). The reaction mixture was cooled in an ice bath. A solution of potassium tert butoxide (1.0 M potassium tert butoxide in tert butanol, 22.8 mmol) in tert butanol/DME (22 mL t-BuOH, 20 mL DME) was added via a funnel at a slow stream. Upon completion of addition, the ice bath was removed and the reaction mixture was stirred at rt overnight. The reaction mixture was quenched with water (approx 50 mL). The aqueous phase was extracted with CH2Cl2 (3×50 mL) and the combined organic portions were washed with sat. NaCl, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to yield a yellow oil. The yellow oil was dissolved in CH2Cl2 and loaded directly onto a silica gel ISCO cartridge (120 g) with elution at 40 mL/min gradient 0 to 15% EtOAc in hexane over 30 min (RT=23-29 min). 2-(3-Fluoro-5-(trifluoromethyl)phenyl)-2-(5-fluoropyridin-2-yl)acetonitrile (1.8 g, 72% yield) was isolated as a yellow oil.

reactant | (3-fluoro-5-(trifluoromethyl)phenyl)(5-fluoropyridin-2-yl)methanone | 8.5 mmol, 2.43 g | FC=1C=C(C=C(C1)C(F)(F)F)C(=O)C1=NC=C(C=C1)F | C13H6F5NO
reactant | TosMIC | 11.4 mmol, 2.23 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | potassium tert butoxide | 22.8 mmol, 1.0 M | CC(C)([O-])C.[K+]
solvent | DME | 60 mL | COCCOC | C4H10O2
solvent | tert butanol DME | 22 mL | C(C)(C)(C)O.COCCOC
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(3-Fluoro-5-(trifluoromethyl)phenyl)-2-(5-fluoropyridin-2-yl)acetonitrile | 1.8 g, 72% yield | FC=1C=C(C=C(C1)C(F)(F)F)C(C#N)C1=NC=C(C=C1)F | C14H7F5N2
